US05849765
4-(Benzothiophen-2-yl)-1-(4-methoxybenzyl)-1,2,3,6-tetrahydropyridine
4-(Benzothiophen-2-yl)-1,2,3,6-tetrahydropyridine hydrochloride (250 mg, 0.99 mmol) was reacted with 4-methoxybenzyl chloride (0.13 ml, 0.99 mmol) as exemplified in Example 1. The crude product was triturated with hot methanol to give the title compound as a pale yellow solid mp 158°-160° C. (Found: C, 75.09; H, 5.05; N, 4.31; C21 H21NOS requires C, 75.19; H, 6.31; N, 4.18%). δH (CDCl3) 2.65 (2H, m, NCH2CH2), 2.74 (2H, m, NCH2 CH2), 3.20 (2H, m, NCH2CH2), 3.61 (2H, s, NCH2Ar), 3.81 (3H, s, OMe), 6.18 (1H, m, NCH2CH), 6.87 (2H, d, J 8.6Hz, ArH), 7.12 (1H, s, ArH), 7.28 (4H, m, ArH), 7.65 (1H, d, J 6.8Hz, ArH), 7.73 (1H, d, J 6.9Hz, ArH). m/z (ES+) 336 (M+1)+.

reactant | 4-(Benzothiophen-2-yl)-1,2,3,6-tetrahydropyridine hydrochloride | 0.99 mmol, 250 mg | Cl.S1C(=CC2=C1C=CC=C2)C=2CCNCC2
reactant | 4-methoxybenzyl chloride | 0.99 mmol, 0.13 ml | COC1=CC=C(CCl)C=C1 | C8H9ClO
product | 4-(Benzothiophen-2-yl)-1-(4-methoxybenzyl)-1,2,3,6-tetrahydropyridine | 4.18% | S1C(=CC2=C1C=CC=C2)C=2CCN(CC2)CC2=CC=C(C=C2)OC | C21H21NOS
